US05439917
5-Cyano-2,3-dimethyl-7-phenacyl pyrrolo[2,3-b]pyridine.
A mixture of 5-cyano-2,3-dimethyl-pyrrolo [2,3-b]pyridine (77 mg, 0.5 mmol ) and phenacyl chloride (650 mg, 4.2 mmol ) in 12 ml CH3CN was refluxed for 62 h. The mixture was basified with a saturated Na2CO3 solution and extracted with CH2Cl2. The organic layer was dried over MgSO4 and evaporated. The residue was chromatographed (silica, CH2Cl2 /diethyl ether;7/3) yielding 34 mg (26%) pure title compound.

reactant | 5-cyano-2,3-dimethyl-pyrrolo [2,3-b]pyridine | 0.5 mmol, 77 mg | C(#N)C=1C=C2C(=NC1)NC(=C2C)C | C10H9N3
reactant | phenacyl chloride | 4.2 mmol, 650 mg | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 12 ml | CC#N | C2H3N
product | 5-Cyano-2,3-dimethyl-7-phenacyl pyrrolo[2,3-b]pyridine | 34 mg, 26% | C(#N)C=1C=C2C(N(C1)CC(=O)C1=CC=CC=C1)=NC(=C2C)C | C18H15N3O
